US07544697B2
A modification of the method described in Example 13 was used to reduce 1,2-dimethyl-2H-pyrazolo[3,4-c]quinolin-4-amine (1.0 g, 4.7 mmol), prepared as described in Example 5. During the work-up procedure, the residue from the filtrate was suspended in 6 M hydrochloric acid and stirred for 30 minutes. The suspension was adjusted to pH 13 with the addition of 50% sodium hydroxide. The resulting solid was isolated by filtration, washed with water, air-dried, and recrystallized from acetonitrile to provide 0.74 g of 1,2-dimethyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine as an off-white solid, mp 258-259° C.

reactant | 1,2-dimethyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 4.7 mmol, 1.0 g | CC=1N(N=C2C(=NC=3C=CC=CC3C21)N)C | C12H12N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6 M | Cl | ClH
product | 1,2-dimethyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine | 0.74 g | CC=1N(N=C2C(=NC=3CCCCC3C21)N)C | C12H16N4
